US06399824B1
Ethyl 2-methyl-3-(3,4,5-trifluorophenyl)acrylate
1.0 eq. of 3,4,5-trifluorobenzaldehyde is dissolved in DMF and stirred at room temperature with 1.1 eq. of ethyl 2-(triphenylphosphanylidene)propionate until complete conversion can be determined by means of thin-layer chromatography. The mixture is freed from the solvent and the residue is stirred in diisopropyl ether. The insoluble residue is filtered off, the filtrate is concentrated in vacuo and the residue is chromatographed on silica gel (EA/heptane 1:1), the title compound being obtained in the form of a colorless solid. (M.p.: 66-68° C.).

reactant | 3,4,5-trifluorobenzaldehyde | 1.0 eq. | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | ethyl 2-(triphenylphosphanylidene)propionate | 1.1 eq. | C1(=CC=CC=C1)P(=C(C(=O)OCC)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | DMF | CN(C)C=O | C3H7NO
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | Ethyl 2-methyl-3-(3,4,5-trifluorophenyl)acrylate | CC(C(=O)OCC)=CC1=CC(=C(C(=C1)F)F)F | C12H11F3O2
